Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
bleeding after ERCP 
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
___ h/o cdiff, cholangiocarcinoma, past episodes of cholangitis,
presenting for routine clean out of his biliary metal stents via
ercp.  He had some bleeding during procedure which slowed but 
did
not stop, GI felt it potentially related to tumor ingrowth near
stent and that he should be hospitalized to monitor for
additional bleeding.  He received meropenem x1 w today's ERCP.
The patient feels well now.  He was last hospitalized in ___ for cholangitis, fever (reviewed discharge summary).  Since
then the plan is to prevent recurrent cholangitis by bring him
sooner for ercp to help clear debris in stent to avoid biliary
obstruction and cholangitis.  Today is the second such procedure
since ___. (last ercp in ___

He is also on suppressive delafloxacin antibiotic managed by ID
to reduce chances of cholangitis and bacteremia.  
He denies pain or nausea currently or jaundice.

ROS:
10pt ROS negative.
 
Past Medical History:
PMH
CHOLANGIOCARCINOMA/BILIARY HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 


- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to 
750mg/m2.
Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p perc
chole tube
- ___: hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization
- ___ admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced
-  admitted from ___ to ___, with
replacement of his percutaneous biliary drain on ___ 
due
to fever.  None of his blood cultures returned positive during
that admission.
- visited ED with fevers, chills abdominal pain on ___ and
___. 
- admitted ___ - ___ with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- admitted ___ - ___ with cholangitis, ERCP deferred
given prior hemobilia. In the absence of an obvious 
target for decompression, ___ was not consulted for consideration 


of biliary drain replacement. Blood and urine cultures were
negative. After discussion with the infectious disease team, the
decision was made to treat for acute cholangitis with a 10d
course of meropenem 500mg q6h (___), followed by 
initiation
of suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 
1
tab daily.
- admitted ___ with cholangitis and associated ESBL E coli 
bacteremia;  treated with ERCP ___ with clean out of his metal 
stents and 14d meropenem.
admitted ___ for fever, cholangitis treated w ertapenem
at discharge and then after that transitioned to delafloxacin.

PAST MEDICAL HISTORY:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___

 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.

 
Physical Exam:
vitals at gi unit
HR 50 97/50 afebrile
no jaundice
non toxic
ctab
rrr
soft non tender abdomen
no peripheral edema
no guarding
calm and not confused

discharge exam
vitals T 98 BP 134/76 HR 58 RR 18 sat 99% on RA
HEENT-ncat eomi anicteric MMM
respiratory-b/l ae no w/c/r
cardiac-s1s2 rr no m/r/g
GI-+bs, soft, NT, ND, no guarding or rebound
ext-no c/c/e 2+pulses
neuro-face symmetric, speech fluent
psych-calm, cooperative
skin-no apparent rash

 
Pertinent Results:
___ 05:25AM BLOOD WBC-2.8* RBC-4.24* Hgb-10.4* Hct-33.6* 
MCV-79* MCH-24.5* MCHC-31.0* RDW-17.2* RDWSD-48.8* Plt Ct-53*
___ 09:53PM BLOOD WBC-3.3* RBC-4.35* Hgb-10.7* Hct-34.7* 
MCV-80* MCH-24.6* MCHC-30.8* RDW-17.0* RDWSD-49.1* Plt Ct-68*
___ 11:20AM BLOOD WBC-2.3* RBC-4.22* Hgb-10.4* Hct-33.2* 
MCV-79* MCH-24.6* MCHC-31.3* RDW-16.8* RDWSD-47.8* Plt Ct-73*
___ 05:25AM BLOOD Glucose-111* UreaN-9 Creat-0.7 Na-143 
K-3.9 Cl-106 HCO3-25 AnGap-12
___ 05:25AM BLOOD ALT-53* AST-38 AlkPhos-113 TotBili-0.5

ERCP ___:
ERCP performed. TWo metal stents noted in the left and right 
biliary systems. Pt developed bleeding through left metal stent 
immediately after cannulation, likely tumor bleeding. Two 
balloon sweeps performed with removal of abundant sludge. 
Procedure stopped due to ongoing bleeding. 
REc NP:O, monitor h/h, expect pt may have melena but if 
significant overt GI bleeding ,recommend eval by ___ for possible 
embolization. 
 
Brief Hospital Course:
___ h/o cdiff, cholangiocarcinoma, past episodes of cholangitis, 
GERD, BPH, DM
presenting for routine clean out of his biliary metal stents via
ercp.  He had some bleeding during procedure which slowed but 
did
not stop and he was hospitalized to monitor for any worsened GI
bleeding. 

#cholangiocarcinoma
#biliary stents
Pt remained hemodynamically stable after procedure without any 
signs of bleeding such as melena or brbpr. His diet was advanced 
to regular without any complications. HCT remained stable. 
Discussed with the ERCP team, who recommended that pt was able 
to be discharged and he can follow up in about 3 month's for a 
repeat ERCP. If pt were to show signs of significant bleeding, 
he may/would require ___ embolization.  
Suppression of cholangitis risk: continued delafloxacin 450mg 
BID. IV meropenem while in pt. 

HA/migraine suppression: atenolol 50mg
BPH: tamsulosin, finasteride
GERD: pantoprazole 40mg daily

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Dronabinol 5 mg PO BID 
3. Atenolol 50 mg PO DAILY 
4. delafloxacin 450 mg oral BID 
5. Tamsulosin 0.4 mg PO QHS 
6. Pantoprazole 40 mg PO Q24H 
7. Loratadine 10 mg PO DAILY 
8. Fluticasone Propionate NASAL 2 SPRY NU BID 

 
Discharge Medications:
1.  Atenolol 50 mg PO DAILY  
2.  delafloxacin 450 mg oral BID  
3.  Dronabinol 5 mg PO BID  
4.  Finasteride 5 mg PO DAILY  
5.  Fluticasone Propionate NASAL 2 SPRY NU BID  
6.  Loratadine 10 mg PO DAILY  
7.  Pantoprazole 40 mg PO Q24H  
8.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cholangiocarcinoma with biliary obstruction and stents
migraine headaches
GERD
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for monitoring after underdoing an ERCP 
procedure where bleeding was noted. Fortunately, you remained 
stable after the procedure and did not show any signs of 
bleeding. The ERCP team is planning for your to have a repeat 
procedure in 3 month's. They will coordinate timing with you. 
 
Followup Instructions:
___